US06727264B1
N-(3-{1-[3,5-BIS(TRIFLUOROMETHYL)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (28.3 mg, 0.100 mmol), 3,5-bis(trifluoromethyl)benzyl bromide (38.4 mg, 0.125 mmol), diisopropylethylamine (0.50 mL), catalytic amount of tetrabutylammonium iodide and dioxane (2.0 mL). Chromatography using silica preparative TLC plates [2.5% of NH3 (2.0 M in methanol) in CHCl3] gave the desired product (12.2 mg, 25.8% yield) as a thick oil: 1H NMR (400 MHz, CDCl3) δ 7.83 (s, 2H), 7.77 (s, 1H), 7.53 (s, 1H), 7.30-7.21 (m, 2H), 7.16 (s, 1H), 6.98 (apparent d, 1H, J=7.6 Hz), 3.62 (s, 2H), 2.94 (d, 2H, J=9.4 Hz), 2.51 (apparent sept, partially hidden, 2H, J=6.6 Hz), 2.14 (m, 2H), 1.82 (m, 4H), 1.25 (d, 6H, J=6.6 Hz); ESMS m/e: 473.2 (M+H)+.

reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.100 mmol, 28.3 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 0.125 mmol, 38.4 mg | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | diisopropylethylamine | 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH3 | 2.0 M | N | H3N
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | N-(3-{1-[3,5-BIS(TRIFLUOROMETHYL)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 12.2 mg, 25.8% yield | FC(C=1C=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C(C1)C(F)(F)F)(F)F | C24H26F6N2O
